US05298498
(a) 1,4-naphthalenedimethanol
A dry 3-neck, 1 L flask equipped with a N2 inlet and dropping funnel is charged with dry THF (200 mL) and LiAlH4 (1.90 g, 0.050 mole). To the stiffed mixture is added via the dropping funnel a hot solution of naphthalene-1,4-dicarboxylic acid (4.32 g, 0.020 mole) in THF (200 mL) over a period of about 1 hour. The resulting mixture is stirred without heating for 90 minutes and then is heated to reflux temperature. After 2 hours, additional LiAlH4 (40 mL of a 1.15 M solution in THF) is added and refluxing continued for 90 minutes. The reaction is stirred at room temperature overnight, then is quenched carefully with THF-water (3:1), acidified to PH <4 with 2N hydrogen chloride, transferred to a separatory funnel and extracted (3 times) with ether. The combined ether extracts are washed with water (2 times), dried (sodium sulfate), filtered, and concentrated to give a white solid (3.68 g). The solid is crystallized from ethyl acetate-hexane, giving (2.68 g) as white crystals, mp 124°-126° C.

reactant | LiAlH4 | 0.050 mole, 1.90 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | naphthalene-1,4-dicarboxylic acid | 0.020 mole, 4.32 g | C1(=CC=C(C2=CC=CC=C12)C(=O)O)C(=O)O | C12H8O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1,4-naphthalenedimethanol | 3.68 g | C1(=CC=C(C2=CC=CC=C12)CO)CO | C12H12O2
